US09145407B2
4-[2-Methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine
6-Chloro-4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine (Preparation 42, 800 mg, 2.6 mmol) was dissolved in methanol (32 mL), the solution was degassed with argon for 15 minutes then palladium on charcoal (160 mg) was added and placed under a balloon of hydrogen gas for 4 hours. The reaction mixture was filtered through diatomaceous earth, washed with methanol (20 mL) and the combined filtrate concentrated in vacuo to afford the title compound as a solid (700 mg).

reactant | 6-Chloro-4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine | 2.6 mmol, 800 mg | ClC1=CC(=C(N=N1)C)C1=C(C=CC(=C1)C(F)(F)F)OC | C13H10ClF3N2O
solvent | methanol | 32 mL | CO | CH4O
product | 4-[2-Methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine | 700 mg | COC1=C(C=C(C=C1)C(F)(F)F)C1=C(N=NC=C1)C | C13H11F3N2O
